US07659297B2
(rac.)-5-{[4-(3-Chloro-2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidene]amino}isoquinolin-1(2H)-one
225 mg (0.664 mmol) of (rac.) 4-(3-chloro-2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal, 106.3 mg (0.664 mmol) of 5-amino-isoquinolin-1(2H)-one and 0.39 ml (1.328 mmol) of titanium tetraisopropylate are stirred in 3.6 ml of o-xylene for two and one-half hours at 120° C. After cooling, the batch is poured into 15 ml of saturated brine and diluted with ethyl acetate. After 20 minutes of vigorous stirring at room temperature, it is filtered on a column, filled with Extrelute. The residue is on silica gel (mobile solvent:ethyl acetate/hexane). 224.7 mg (70.3%) of the desired compound is isolated.

reactant | (rac.) 4-(3-chloro-2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 0.664 mmol, 225 mg | ClC=1C(=C(C=CC1C)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C15H18ClF3O3
reactant | 5-amino-isoquinolin-1(2H)-one | 0.664 mmol, 106.3 mg | NC1=C2C=CNC(C2=CC=C1)=O | C9H8N2O
solvent | o-xylene | 3.6 ml | CC=1C=CC=CC1C | C8H10
solvent | brine | 15 ml | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | titanium tetraisopropylate | 1.328 mmol, 0.39 ml | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | (rac.)-5-{[4-(3-Chloro-2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidene]amino}isoquinolin-1(2H)-one | 224.7 mg, 70.3% | ClC=1C(=C(C=CC1C)C(CC(C=NC1=C2C=CNC(C2=CC=C1)=O)(C(F)(F)F)O)(C)C)OC | C24H24ClF3N2O3
